### ISSUE TITLE
Fix omitted y field in lagrange_polys_for_complete_points record update

### ISSUE THREAD

**Issue by truonghoangle** [Beneficial-AI-Foundation/SparsePostQuantumRatchet-verify#272]
In the definition
``` lean
/-- [spqr::encoding::polynomial::lagrange_polys_for_complete_points]: loop body 0:
    Source: 'src/encoding/polynomial.rs', lines 477:8–482:9 -/
```
at the line

```lean
let a := index_mut_back { p with x := { value := i1 } }
```
Aeneas omitted part of the record update. It should instead be

```lean
let a := index_mut_back { p with x := { value := i1 }, y := encoding.gf.GF16.ONE }
```

so that both the x and y fields are updated correctly. @oliver-butterley Can you fix it?

**Comment by oliver-butterley** [comment]
That's great, thanks for highlighting the issue. I believe this is one that is already in the pipeline but it's important to have the extra examples for checking and testing. I'll assign myself to this issue so I remember it.

**Comment by astefano** [comment]
by chance, i came across this issue (i was debugging something in probe-lean). my understanding from the exchange i had with claude is that the proposal to  add `y := encoding.gf.GF16.ONE` would lead to an unfaithful translation wrt `lagrange_polys_for_complete_points`. 

we have:
```
// src/encoding/polynomial.rs:469-482
const fn lagrange_polys_for_complete_points<const N: usize>() -> [PolyConst<N>; N] {
    let mut ones = [Pt { x: GF16::ZERO, y: GF16::ONE }; N];
    {
        let mut i: usize = 0;
        while i < N {
            ones[i].x.value = i as u16;   // <- only x
            i += 1;
        }
    }
```

so `let a := index_mut_back { p with x := { value := i1 } }` is a correct translation of `ones[i].x.value = i as u16`: `y` is inherited from `p`, exactly as in rust. and the top-level generated function does initialise it:

```
-- SrcTranslated/Funs.lean
def encoding.polynomial.lagrange_polys_for_complete_points
  (N : Std.Usize) : Result (Array (encoding.polynomial.PolyConst N) N) := do
  let ones :=
    Array.repeat N ({ x := encoding.gf.GF16.ZERO, y := encoding.gf.GF16.ONE } :
      encoding.polynomial.Pt)
  ...
```

adding `y := GF16.ONE` to `lagrange_polys_for_complete_points_loop0.body` as proposed would insert a write that the rust does not perform.

**Comment by astefano** [comment]
furthermore, `lagrange_polys_for_complete_points_loop0.body_spec` quantifies over an arbitrary `ones : Array Pt N` with no hypothesis about `y`, but its cont postcondition asserts `(ones1[i]!).y = GF16.ONE`. since Pt has two independent GF16 fields and the body leaves `y` alone, `ones1[i].y = ones[i].y`, which is unconstrained.

claude shows that it's concretely refutable:

```
import Spqr

open Aeneas Aeneas.Std Result
open spqr.encoding.gf spqr.encoding.polynomial
open spqr.encoding.polynomial.lagrange_polys_for_complete_points_loop0

/-- A legal inhabitant of `body_spec`'s argument type whose `y` is `GF16.ZERO`. -/
def badOnes : Std.Array Pt 1#usize :=
  Std.Array.repeat 1#usize ({ x := GF16.ZERO, y := GF16.ZERO } : Pt)

set_option maxHeartbeats 1000000 in
/-- `body_spec`'s statement, negated and proved directly. Note this does *not*
invoke the admitted `body_spec`, so it carries no `sorryAx`. -/
theorem body_spec_statement_is_refutable :
    ¬ (∀ (N : Usize) (ones : Std.Array Pt N) (i : Usize),
        N.val ≤ 65536 →
        body ones i ⦃ (cf : ControlFlow (Std.Array Pt N × Usize) (Std.Array Pt N)) =>
          match cf with
          | ControlFlow.done ones' => ones' = ones ∧ ¬ (i < N)
          | ControlFlow.cont (ones1, i1) =>
              i < N ∧
              i1 = i.val + 1 ∧
              (∀ (_ : i < ones1.length),
                (ones1[i]!).x.value.val = i.val ∧
                (ones1[i]!).y = GF16.ONE) ∧
              (∀ (j : Nat), j ≠ i → ones1[j]! = ones[j]!) ⦄) := by
  intro hspec
  have h := hspec 1#usize badOnes 0#usize (by decide)
  simp [body, badOnes, Std.Array.index_mut_usize, Std.Array.repeat,
    Std.Array.index_usize, Std.Array.set, UScalar.cast, Std.lift] at h
  cases hadd : (0#usize + 1#usize) with
  | ok i2 =>
    rw [hadd] at h; simp at h
    obtain ⟨-, -, hy, -⟩ := h
    rw [GF16.ZERO, GF16.ONE] at hy
    injection hy with hv
    exact absurd hv (by decide)
  | fail e => rw [hadd] at h; simp at h
  | div => rw [hadd] at h; simp at h

#print axioms body_spec_statement_is_refutable
-- 'body_spec_statement_is_refutable' depends on axioms: [propext, Classical.choice, Quot.sound]
```
